US07223769B2
In 6 ml of tetrahydrofuran was suspended 0.29 g of sodium hydride (60% in oil), to which 0.4 ml of a solution containing 0.25 g of 2-butyn-1-ol in tetrahydrofuran was added dropwise at room temperature, followed by stirring for 10 minutes. To this was added dropwise 0.4 ml of a solution containing 0.66 g of 1-(6-chloropyrimidin-4-yloxy)-2-methyl-2-propanol in tetrahydrofuran at 0° C., followed by increasing the temperature up to room temperature and stirring for 5 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.33 g of 4-(2-butynyloxy)-6-(2-hydroxy-2-methylpropyloxy)pyrimidine.

reactant | sodium hydride | 0.29 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.25 g | C(C#CC)O | C4H6O
reactant | 1-(6-chloropyrimidin-4-yloxy)-2-methyl-2-propanol | 0.66 g | ClC1=CC(=NC=N1)OCC(C)(O)C | C8H11ClN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(2-hydroxy-2-methylpropyloxy)pyrimidine | 0.33 g | C(C#CC)OC1=NC=NC(=C1)OCC(C)(C)O | C12H16N2O3
